US05212187
N-[4-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N'-[2-[[(5-methylimidazol-4-yl)methyl]thio]ethyl]urea
Preparation is effected analogously to Example 63, using 0.8 g (2.4 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,4-butanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.5 g (2.9 mmol) of 2-[[(5-methylimidazol-4-yl)methyl]thio]ethaneamine [R. W. Brimblecombe et al., J. Int. Med. Res. 3, 86 (1975)] as starting materials. Working up by chromatography (eluant: ethyl acetate/methanol 9+1) analogously to Example 63 yields the purified title compound in the form of a crystalline solid that is recrystallised from ether; m.p.: 97°-98° C.; MS (+FAB method): m/z (rel. int.[%])=529 ([M+H]+, 10), 230 (100); IR (KBr): 1643 cm-1 (C=O).

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,4-butanediamine | 2.4 mmol, 0.8 g | ClC1=CC=C(C=C1)C(CCN(CCCCN)C)C1=NC=CC=C1 | C19H26ClN3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(5-methylimidazol-4-yl)methyl]thio]ethaneamine | 2.9 mmol, 0.5 g | CC1=C(N=CN1)CSCCN | C7H13N3S
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-[4-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N'-[2-[[(5-methylimidazol-4-yl)methyl]thio]ethyl]urea | ClC1=CC=C(C=C1)C(CCN(C)CCCCNC(=O)NCCSCC=1N=CNC1C)C1=NC=CC=C1 | C27H37ClN6OS
